US08404692B2
7-Acetyl-6,8-dimethyl-3,4-dihydro-2H-pyrrolo[1,2-a]pyrazin-1-one
4-Acetyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid (2-chloro-ethyl)-amide (12.664 g, 52.18 mmol) was slurried in DCM (100 mL) and Et3N (20 mL) and heated to 50° C. for 16 hours. After cooling to room temperature and removal of solvent, the residue was treated with cold water. The resulting off white precipitate filtered off and shown to be the target compound (10.424 g, 50.54 mmol, 97% yield).

reactant | 4-Acetyl-3,5-dimethyl-1H-pyrrole-2-carboxylic acid (2-chloro-ethyl)-amide | 52.18 mmol, 12.664 g | ClCCNC(=O)C=1NC(=C(C1C)C(C)=O)C | C11H15ClN2O2
reactant | Et3N | 20 mL | CCN(CC)CC | C6H15N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 7-Acetyl-6,8-dimethyl-3,4-dihydro-2H-pyrrolo[1,2-a]pyrazin-1-one | 50.54 mmol, 10.424 g, 97% yield | C(C)(=O)C=1C(=C2N(CCNC2=O)C1C)C | C11H14N2O2
